US07569599B2
(3R)-3-[1-(tert-Butoxycarbonylamino)cyclopropyl]-1-(1,1-diphenylmethyl)pyrrolidine
(3R)-3-(1-Aminocyclopropyl)-1-(1,1-diphenylmethyl)pyrrolidine (0.34 g) was dissolved in tert-butyl alcohol (1.7 mL), and 1 mol/L aqueous sodium hydroxide (3.0 mL) was added to the solution, followed by stirring. Di-tert-butyl dicarbonate (0.40 mL) was added to the mixture, and the resultant mixture was stirred at room temperature for 7 hours. The reaction mixture was extracted with chloroform. The formed aqueous layer was again extracted with chloroform, and the organic layers were combined together, washed with saturated brine, and dried over sodium sulfate. The drying agent was removed through filtration, and the filtrate was concentrated under reduced pressure, to thereby yield crystalline. The residue was subjected to silica gel chromatography, to thereby give the target compound (0.336 g, yield 74%) as pale yellow crystals.

reactant | (3R)-3-(1-Aminocyclopropyl)-1-(1,1-diphenylmethyl)pyrrolidine | 0.34 g | NC1(CC1)[C@H]1CN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H24N2
reactant | sodium hydroxide | 1 mol/L, 3.0 mL | [OH-].[Na+]
reactant | Di-tert-butyl dicarbonate | 0.40 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butyl alcohol | 1.7 mL | C(C)(C)(C)O | C4H10O
product | (3R)-3-[1-(tert-Butoxycarbonylamino)cyclopropyl]-1-(1,1-diphenylmethyl)pyrrolidine | 0.336 g, yield 74% | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H32N2O2
